US08022223B2
tert-Butyl 2-oxo-2-(4-(5-(3-phenoxy-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)piperidin-1-yl)ethylcarbamate (0.098 g, 0.16 mmol) was dissolved in CH2Cl2:MeOH (1:1, 20 mL) and added 5 mL of 4M HCl in dioxane and stirred for 2 hours. The reaction was concentrated and dried in high vacuum oven to provide 2-amino-1-(4-(5-(3-phenoxy-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)piperidin-1-yl)ethanone dihydrochloride (0.081 g, 78% yield). 1H NMR (d-DMSO) δ 12.34 (s, 1H), 8.39 (d, 1H), 8.37 (m, 1H), 8.13 (m, 3H), 7.67 (dt, 1H), 7.48 (d, 1H), 7.43 (t, 2H), 7.21-7.11 (m, 5H), 4.32 (d, 1H), 3.90 (m, 2H), 3.70 (m, 2H), 3.48 (m, 1H), 3.26-3.02 (m, 2H), 2.94 (t, 1H), 2.06 (d, 2H), 1.76-1.53 (m, 2H).

reactant | tert-Butyl 2-oxo-2-(4-(5-(3-phenoxy-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)piperidin-1-yl)ethylcarbamate | 0.16 mmol, 0.098 g | O=C(CNC(OC(C)(C)C)=O)N1CCC(CC1)C1=NSC(=N1)NC1=NC=C(C=C1OC1=CC=CC=C1)SC1=NC=CC=C1 | C30H33N7O4S2
reactant | HCl | 4M, 5 mL | Cl | ClH
solvent | CH2Cl2 MeOH | 20 mL | C(Cl)Cl.CO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-amino-1-(4-(5-(3-phenoxy-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)piperidin-1-yl)ethanone dihydrochloride | 0.081 g, 78% yield | Cl.Cl.NCC(=O)N1CCC(CC1)C1=NSC(=N1)NC1=NC=C(C=C1OC1=CC=CC=C1)SC1=NC=CC=C1 | InChI=1S/C25H25N7O2S2.2ClH/c26-15-22(33)32-12-9-17(10-13-32)23-29-25(36-31-23)30-24-20(34-18-6-2-1-3-7-18)14-19(16-28-24)35-21-8-4-5-11-27-21;;/h1-8,11,14,16-17H,9-10,12-13,15,26H2,(H,28,29,30,31);2*1H
